US07141567B2
H. (8R,9R)-8-(tert-Butyldimethylsilanyloxy)-2-methyl-9-phenyl-5,6,7,8,9,10-hexahydroimidazo[1,2-h][1,7]naphthyridin-7-one
19.4 g (128.3 mmol) of 2-methyl-6,7-dihydro-5H-imidazo[1,2-a]pyridin-8-one, 42.07 g (130.2 mmol) of ethyl (2R,3R)-3-amino-2-(t-butyldimethylsilanyloxy)-3-phenylpropionate and 0.65 g of p-toluenesulfonic acid monohydrate are boiled under reflux in a water separator for 1.5 h in 100 ml of absolute toluene. The solution is cooled to room temperature and treated with 100 ml of absolute tetrahydrofuran. 154 ml of 2M LDA (lithium diisopropylamide) solution (THF) are then added dropwise to the reaction solution, which is cooled to −25° C. After the LDA addition, the temperature is allowed to rise to 0° C. and the mixture is stirred further at 0° C. for 1 h. The reaction solution is washed once at room temperature with 200 ml of saturated ammonium chloride solution, once with 50 ml of saturated ammonium chloride solution and once with water. The organic phase is concentrated and chromatographed on silica gel (petroleum ether/ethyl acetate 2:1). The concentrated product fractions are dried in a high vacuum. 50.8 g (97% of theory) of the title compound are obtained.

reactant | 2-methyl-6,7-dihydro-5H-imidazo[1,2-a]pyridin-8-one | 128.3 mmol, 19.4 g | CC=1N=C2N(CCCC2=O)C1 | C8H10N2O
reactant | ethyl (2R,3R)-3-amino-2-(t-butyldimethylsilanyloxy)-3-phenylpropionate | 130.2 mmol, 42.07 g | N[C@@H]([C@H](C(=O)OCC)O[Si](C)(C)C(C)(C)C)C1=CC=CC=C1 | C17H29NO3Si
reactant | p-toluenesulfonic acid monohydrate | 0.65 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | LDA | 2M, 154 ml | C(C)(C)[N-]C(C)C.[Li+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (8R,9R)-8-(tert-Butyldimethylsilanyloxy)-2-methyl-9-phenyl-5,6,7,8,9,10-hexahydroimidazo[1,2-h][1,7]naphthyridin-7-one | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@H](NC=2C=3N(CCC2C1=O)C=C(N3)C)C3=CC=CC=C3 | C23H31N3O2Si
